US09326516B2
Preparation of 2-amino-2-(4-chloro-3-methylphenyl)ethanol (C4)
To 2-amino-2-(4-chloro-3-methylphenyl)acetic acid (1.7 g, 8.5 mmol) in tetrahydrofuran (0.4 M) at 0° C. was added lithium aluminum hydride (2 M, 8.5 mL, 17 mmol) dropwise. The reaction was refluxed for 18 hours. The reaction was cooled and quenched with ice water. The reaction was extracted with ethyl acetate, washed with water, and brine. The combined organic layers were dried over sodium sulfate, filtered, and concentrated to provide the title compound as a yellow solid (1.6 g, quantitative): 1H NMR (300 MHz, DMSO-d6) δ 7.44-7.23 (m, 2H), 7.18 (dd, J=8.2, 2.2 Hz, 1H), 4.77 (bs, 2H), 3.81 (dd, J=7.8, 4.8 Hz, 1H), 3.53-3.14 (m, 3H), 2.30 (s, 3H); ESIMS m/z 186 ([M+H]+).

reactant | 2-amino-2-(4-chloro-3-methylphenyl)acetic acid | 8.5 mmol, 1.7 g | NC(C(=O)O)C1=CC(=C(C=C1)Cl)C | C9H10ClNO2
reactant | lithium aluminum hydride | 17 mmol, 2 M, 8.5 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 0.4 M | O1CCCC1 | C4H8O
product | 2-amino-2-(4-chloro-3-methylphenyl)ethanol | 1.6 g | NC(CO)C1=CC(=C(C=C1)Cl)C | C9H12ClNO
